US05068325
1a) 2-Amino-6-(1H-inden-2-yl-methyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine, potassium carbonate and 2-chloromethyl-1H-indene (prepared from 1H-indene, paraformaldehyde and concentrated hydrochloric acid) in anhydrous dimethylformamide for 2 hours at 50° C. Yield: 4% of theory, Melting point: 134°-138° C.

reactant | 2-amino-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloromethyl-1H-indene | ClCC=1CC2=CC=CC=C2C1 | C10H9Cl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Amino-6-(1H-inden-2-yl-methyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 4% | NC=1SC=2CCN(CCC2N1)CC=1CC2=CC=CC=C2C1 | C17H19N3S
